US06794377B2
Methyl 3-[2-(tert-butoxycarbonylaminomethyl)phenyl]pyrazine-2-carboxylate (Compound 15)
107 ml of 1,2-dimethoxyethane were aerated with argon, and 597 mg (0.51 mmol) of Pd(PPh3)4 and 2.24 g (10.3 mmol) of methyl 3-brompyrazine-2-carboxylate were added. After 10 min, 3.9 g (15.45 mmol) of 2-(tert-butoxycarbonylaminomethyl)-phenylboronic acid and finally 10.7 ml of a 2M sodium carbonate solution were added. The mixture was heated to reflux for 18 h under argon, diluted with dichloromethane after cooling and washed with water. The organic phase was dried, concentrated and purified by chromatography on silica gel. 661 mg (19%) of a viscous oil were obtained. MS (ES+): m/z=344 (M+1), 288 (M−55). 1H-NMR (CDCl3): δ=8.78 (1H, d, J=2.4 Hz), 8.67 (1H, d, J=2.4 Hz), 7.54-7.14 (4H, m), 5.11 (1H, br s), 4.22 (2H, d, J=5.9 Hz), 3.79 (3H, s), 1.38 (9H, s).

reactant | 1,2-dimethoxyethane | 107 ml | COCCOC | C4H10O2
reactant | methyl 3-brompyrazine-2-carboxylate | 10.3 mmol, 2.24 g | BrC=1C(=NC=CN1)C(=O)OC | C6H5BrN2O2
reactant | 2-(tert-butoxycarbonylaminomethyl)-phenylboronic acid | 15.45 mmol, 3.9 g | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)B(O)O | C12H18BNO4
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Pd(PPh3)4 | 0.51 mmol, 597 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 3-[2-(tert-butoxycarbonylaminomethyl)phenyl]pyrazine-2-carboxylate | 661 mg, 19% | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)C=1C(=NC=CN1)C(=O)OC | C18H21N3O4
